* /home/paras/Desktop/hackthon_iitb/working/fas1bitv3.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Wed Jun 30 10:56:14 2021

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
.lib "sky130_fd_pr/models/sky130.lib.spice" tt

xM1  in1_bar in1 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM3  in2_bar in2 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM2  vdd in1 in1_bar vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM4  vdd in2 in2_bar vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM18  vdd in2 Net-_M18-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM19  Net-_M18-Pad3_ in1_bar has Net-_M18-Pad3_ sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM41  vdd in2_bar Net-_M41-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM42  Net-_M41-Pad3_ in1 has Net-_M41-Pad3_ sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM14  has in1_bar Net-_M14-Pad3_ Net-_M14-Pad3_ sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM39  has in1 Net-_M39-Pad3_ Net-_M39-Pad3_ sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM15  Net-_M14-Pad3_ in2_bar GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM40  Net-_M39-Pad3_ in2 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM43  has_bar has GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM47  cin_bar cin GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM44  vdd has has_bar vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM51  vdd cin cin_bar vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM59  vdd cin Net-_M59-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM60  Net-_M59-Pad3_ has_bar result Net-_M59-Pad3_ sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM67  vdd cin_bar Net-_M67-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM68  Net-_M67-Pad3_ has result Net-_M67-Pad3_ sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM57  result has_bar Net-_M57-Pad3_ Net-_M57-Pad3_ sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM65  result has Net-_M65-Pad3_ Net-_M65-Pad3_ sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM58  Net-_M57-Pad3_ cin_bar GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM66  Net-_M65-Pad3_ cin GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM45  Net-_M45-Pad1_ o1 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM46  Net-_M46-Pad1_ o2 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM55  Net-_M45-Pad1_ o3 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM50  Net-_M46-Pad1_ o3 Net-_M49-Pad1_ Net-_M49-Pad1_ sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM49  Net-_M49-Pad1_ o2 Net-_M48-Pad1_ Net-_M48-Pad1_ sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM48  Net-_M48-Pad1_ o1 vdd vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM62  carry Net-_M46-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM61  carry Net-_M46-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM52  Net-_M52-Pad1_ o4 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM56  Net-_M52-Pad1_ o5 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM54  Net-_M52-Pad1_ o5 Net-_M53-Pad1_ Net-_M53-Pad1_ sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM53  Net-_M53-Pad1_ o4 vdd vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM64  borrow Net-_M52-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM63  borrow Net-_M52-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM6  vdd cin Net-_M12-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM23  vdd in1 Net-_M12-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM12  Net-_M12-Pad1_ cin Net-_M12-Pad3_ Net-_M12-Pad3_ sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM13  Net-_M12-Pad3_ in1 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM30  o2 Net-_M12-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM32  vdd Net-_M12-Pad1_ o2 vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM5  vdd in1 Net-_M10-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM22  vdd in2 Net-_M10-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM10  Net-_M10-Pad1_ in1 Net-_M10-Pad3_ Net-_M10-Pad3_ sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM11  Net-_M10-Pad3_ in2 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM29  o1 Net-_M10-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM31  vdd Net-_M10-Pad1_ o1 vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM7  vdd in2 Net-_M16-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM26  vdd cin Net-_M16-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM16  Net-_M16-Pad1_ in2 Net-_M16-Pad3_ Net-_M16-Pad3_ sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM17  Net-_M16-Pad3_ cin GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM33  o3 Net-_M16-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM34  vdd Net-_M16-Pad1_ o3 vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM8  vdd has_bar Net-_M20-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM27  vdd cin Net-_M20-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM20  Net-_M20-Pad1_ has_bar Net-_M20-Pad3_ Net-_M20-Pad3_ sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM21  Net-_M20-Pad3_ cin GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM35  o4 Net-_M20-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM36  vdd Net-_M20-Pad1_ o4 vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM9  vdd in1_bar Net-_M24-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM28  vdd in2 Net-_M24-Pad1_ vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15
xM24  Net-_M24-Pad1_ in1_bar Net-_M24-Pad3_ Net-_M24-Pad3_ sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM25  Net-_M24-Pad3_ in2 GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM37  o5 Net-_M24-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.8 l=.15
xM38  vdd Net-_M24-Pad1_ o5 vdd sky130_fd_pr__pfet_01v8 w=1.6 l=.15




.ic V(in1) = 0
.ic V(in1_bar) = 0
.ic V(in2) = 0
.ic V(in2_bar) = 0
.ic V(cin) = 0
.ic V(cin_bar) = 0
*.ic V(ctrl) = 0
*.ic V(ctrl_bar) = 0

v1 vdd 0 1.8
v2 in1 0 PULSE 0 1.8 1ns 0s 0s 20ns 40ns
v3 in2 0 PULSE 0 1.8 1ns 0s 0s 10ns 20ns
v4 cin 0 PULSE 0 1.8 1ns 0s 0s 5ns 10ns
*V5 ctrl 0 PULSE 0 1.8 1ns 0s 0s 40ns 80ns

.control
tran 0.1ns 40ns

*_________________________________________________
*for full adder*******************************
plot v(in1)+8 v(in2)+6 v(cin)+4 v(result)+2 v(carry)
*_________________________________________________

*_________________________________________________
*for full subtractor******************************
plot v(in1)+8 v(in2)+6 v(cin)+4 v(result)+2 v(borrow)
*________________________________________________


.endc

.end
